US06458772B1
To a mixture of DCC (9.41 g, 46 mmol), DMAP (0.586 g, 4.8 mmol) and N-CBz-L-valine (12.1 g, 48 mmol) in CH2Cl2 (200 mL) at 0° C., was added dropwise a solution of 4-methoxybenzyl 5-hydroxy-2,2-dimethyl-valerate (6.40 g, 24 mmol) in CH2Cl2 (50 mL). After 1 h at 0° C., the temperature of the reaction mixture was allowed to assume room temperature and then the mixture was stirred for 5h at room temperature. The mixture was filtered through a glass filter and the solvent was removed under reduced pressure. The crude product was column chromatographed (silica gel, 1→4% MeOH in CH2Cl2), to give 8.61 g 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-2,2-dimethylvalerate.

reactant | DCC | 46 mmol, 9.41 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-CBz-L-valine | 48 mmol, 12.1 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 4-methoxybenzyl 5-hydroxy-2,2-dimethyl-valerate | 24 mmol, 6.40 g | OCCCC(C(=O)OCC1=CC=C(C=C1)OC)(C)C | C15H22O4
catalyst | DMAP | 4.8 mmol, 0.586 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-2,2-dimethylvalerate | 8.61 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCCCC(C(=O)OCC1=CC=C(C=C1)OC)(C)C | C28H37NO7
